US04176184
2,7,7-Trimethyl-5-(2-diethylamino-ethyl)-5H,7H-imidazo[4,5-h]isoquinoline-4,6-dione hydrochloride by method B
4.2 gm of 2,7,7-trimethyl-5H,7H-imidazo[4,5-h]isoquinoline-4,6-dione were dissolved in 100 ml of dimethylformamide, and the solution was admixed with 3.4 gm of diethylamino ethyl chloride hydrochloride and 4.1 gm of potassium carbonate. The mixture was refluxed for 8 hours, the solvent was distilled off in vacuo, the residue was admixed with water and extracted with chloroform. The chloroform phase was evaporated and the residue was purified on a silicagel column (eluant: chloroform/acetone 19:1). The dihydrochloride was precipitated from acetone/methanol with ethereal hydrochloric acid and recrystallized from acetone/methanol.

reactant | 2,7,7-trimethyl-5H,7H-imidazo[4,5-h]isoquinoline-4,6-dione | 4.2 gm | CC1=NC=2C(C(CC3C(C(N=CC23)(C)C)=O)=O)=N1 | C13H13N3O2
reactant | diethylamino ethyl chloride hydrochloride | 3.4 gm | Cl.C(C)N(CC)CCCl
reactant | potassium carbonate | 4.1 gm | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 2,7,7-Trimethyl-5-(2-diethylamino-ethyl)-5H,7H-imidazo[4,5-h]isoquinoline-4,6-dione hydrochloride | Cl.CC1=NC=2C(C(C(C3C(C(N=CC23)(C)C)=O)CCN(CC)CC)=O)=N1 | InChI=1S/C19H26N4O2.ClH/c1-6-23(7-2)9-8-12-14-13(10-20-19(4,5)18(14)25)15-16(17(12)24)22-11(3)21-15;/h10,12,14H,6-9H2,1-5H3;1H
